** sch_path: /foss/designs/CHIP-PLL/schematics/PFD/PFD_buffor.sch
.subckt PFD_buffor gnd vp out in
*.PININFO gnd:B vp:B in:I out:B
MM1 out_stage1 in gnd gnd sg13_lv_nmos w=0.4u l=0.5u ng=1
MM4 out_stage1 in vp vp sg13_lv_pmos w=0.4u l=0.5u ng=1
MM2 out out_stage1 gnd gnd sg13_lv_nmos w=0.4u l=0.5u ng=1
MM3 out out_stage1 vp vp sg13_lv_pmos w=0.4u l=0.5u ng=1
.ends
